2171-05-09 01:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2171-5-7**] 11:29 AM
   Pt. known to MICU service, since discharge to medical [**Hospital1 **] yesterday
   AM.
   Overnight continued to experience dyspnea and dry cough (according to
   daughter).  Tolerated bedside right thoracentesis without complications
   (although only able to remove <100 ml pink fluid).  Experienced
   progressive dyspnea this late PM, associated with audible wheezing,
   with poor ABG --> intubated on medical [**Hospital1 **], and now transferred back
   to MICU service.
   Upon arrival to MICU, currently intubated, mechanically ventilated.
   Appears comfortable.  Two daughters and son-in-law present in room.
   History obtained from Medical records
   Patient unable to provide history: Language barrier, ETT intubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-5-7**] 08:00 AM
   Levofloxacin - [**2171-5-8**] 10:08 PM
   Vancomycin - [**2171-5-8**] 11:44 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-5-8**] 10:58 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   flaccid left arm > left leg
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-9**] 01:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 72 (72 - 105) bpm
   BP: 121/50(68) {89/48(59) - 143/86(96)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 100%
   CVP: 12 (12 - 14)mmHg
   Total In:
                                                                    416 mL
                                                                     42 mL
   PO:
   TF:
   IVF:
                                                                    416 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    500 mL
   Urine:
                                                                    640 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -224 mL
                                                                   -457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/39/254//-3
   Ve: 6.5 L/min
   PaO2 / FiO2: 635
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Dysconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: bilaterally, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG tube site intact
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful right,
   but limited, Sedated, No(t) Paralyzed, Tone: Decreased, Left
   hemiparesis
   Labs / Radiology
   9.3 g/dL
   242 K/uL
   117 mg/dL
   0.8 mg/dL
    26
   3.9 mEq/L
   19 mg/dL
   114 mEq/L
   146 mEq/L
   27.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2171-5-6**]  12:20 AM
                             [**2171-5-6**]  02:54 AM
                             [**2171-5-6**]  03:46 AM
                             [**2171-5-7**]  03:42 AM
                             [**2171-5-8**]  08:07 PM
   WBC
   8.1
   9.0
   8.5
   Hct
   30.5
   29.0
   27.3
   Plt
   287
   283
   242
   Cr
   0.9
   0.8
   TCO2
   28
   22
   Glucose
   136
   117
   Other labs: Differential-Neuts:77.3 %, Lymph:17.6 %, Mono:2.5 %,
   Eos:1.8 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:197 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese-speaking h/o CVA, dementia now with increased
   respiratory distress and respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, attributed to probable RLL
   pneumonia (aspiration), evolving effusions (right > left), and possible
   cardiac decompensation.  Plan continue mechanical ventilation, monitor
   ABG, maintain pH 7.35-7.40, pO2 >60 mmHg.  Continue empirical
   antimicrobials.  VAP precautions.  Monitor for wheezing --> albuterol
   prn.  At risk for ARDS.
   WHEEZES -- by report of daughter.  Cardiac vs. reactive airways.
   Monitor.
   HYPOXEMIA -- attributed to pulmonary infiltrate (possible RLL
   pneumonia) and pleural effusions, +/- wheezing.  Continue supplimental
   oxygen to maintain SaO2>90%.
   PLEURAL EFFUSSIONS -- attributed to parapneumonia effusion and possible
   underlying CHF.  Await final analysis of right thoracentesis.  Monitor
   CXR.
   FLUIDS -- net volume depleted/hypovolemic clinically.  Desire net
   expansion (careful).  Monitor I/O.
   HYPERNATREMIA -- improving.  continue free H2O repletion, monitor Na.
   NUTRITIONAL SUPPORT -- Continue TF working to goal rate.
   ALTERED MENTAL STATUS -- currently difficult to assess neurologically
   as pt. sedated.  No obvious new clinical CVA syndrome.  Anticipate
   return to baseline as underlying illness resolves.
   ANEMIA -- monitor Hct, stool guiac.  ?ACD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2171-5-8**] 08:26 PM
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Communication with daughter/HCP [**Name (NI) **] [**Name (NI) 7077**]
   [**Telephone/Fax (1) 7078**] (h), [**Telephone/Fax (1) 7079**] (c).
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2171-05-11 07:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-5-8**] 10:08 PM
   Piperacillin - [**2171-5-11**] 12:00 AM
   Vancomycin - [**2171-5-11**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2171-5-10**] 08:01 AM
   Furosemide (Lasix) - [**2171-5-10**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2171-5-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-5-11**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (60 - 103) bpm
   BP: 112/64(76) {84/35(48) - 139/64(82)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (8 - 35)mmHg
   Total In:
                                                                  2,489 mL
                                                                    957 mL
   PO:
   TF:
                                                                    173 mL
                                                                    354 mL
   IVF:
                                                                  2,015 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    230 mL
   Urine:
                                                                    940 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,549 mL
                                                                    727 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 101
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: ///21/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   301 K/uL
   131 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.1 mEq/L
   9 mg/dL
   112 mEq/L
   142 mEq/L
   25.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2171-5-6**]  12:20 AM
                             [**2171-5-6**]  02:54 AM
                             [**2171-5-6**]  03:46 AM
                             [**2171-5-7**]  03:42 AM
                             [**2171-5-8**]  08:07 PM
                             [**2171-5-9**]  03:59 AM
                             [**2171-5-10**]  04:17 AM
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
   WBC
   8.1
   9.0
   8.5
   11.2
   8.1
   9.6
   7.2
   Hct
   30.5
   29.0
   27.3
   29.1
   24.1
   26.7
   25.2
   Plt
   287
   283
   242
   296
   247
   295
   301
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   0.9
   TropT
   0.03
   TCO2
   28
   22
   Glucose
   136
   117
   77
   96
   104
   131
   Other labs: PT / PTT / INR:12.1/29.3/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:83.4 %, Lymph:9.2 %, Mono:3.5 %, Eos:3.4 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:139 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 HYPOXEMIA
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-11**] 07:14 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2171-05-11 10:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   second intubation this admission
   24 Hour Events:
   started on dopa for poor urine output
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2171-5-8**] 10:08 PM
   Vancomycin - [**2171-5-11**] 12:00 AM
   Piperacillin - [**2171-5-11**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 2 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2171-5-10**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2171-5-11**] 08:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-5-11**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 58 (58 - 103) bpm
   BP: 84/44(54) {84/35(48) - 139/64(82)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 14 (8 - 35)mmHg
   Total In:
                                                                  2,489 mL
                                                                  1,262 mL
   PO:
   TF:
                                                                    173 mL
                                                                    486 mL
   IVF:
                                                                  2,015 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    420 mL
   Urine:
                                                                    940 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,549 mL
                                                                    842 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 101
   PIP: 36 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Thin, contracted
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, peg
   Extremities: Right: Absent, Left: Absent, edema
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   301 K/uL
   131 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.1 mEq/L
   9 mg/dL
   112 mEq/L
   142 mEq/L
   25.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2171-5-6**]  12:20 AM
                             [**2171-5-6**]  02:54 AM
                             [**2171-5-6**]  03:46 AM
                             [**2171-5-7**]  03:42 AM
                             [**2171-5-8**]  08:07 PM
                             [**2171-5-9**]  03:59 AM
                             [**2171-5-10**]  04:17 AM
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
   WBC
   8.1
   9.0
   8.5
   11.2
   8.1
   9.6
   7.2
   Hct
   30.5
   29.0
   27.3
   29.1
   24.1
   26.7
   25.2
   Plt
   287
   283
   242
   296
   247
   295
   301
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   0.9
   TropT
   0.03
   TCO2
   28
   22
   Glucose
   136
   117
   77
   96
   104
   131
   Other labs: PT / PTT / INR:12.1/29.3/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:83.4 %, Lymph:9.2 %, Mono:3.5 %, Eos:3.4 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:139 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Resp failure
 due to pneumonia and effusions, wean vent as tolerated,
   continue [**Last Name (LF) 1679**], [**First Name3 (LF) 124**] propose changing goals of care with family, diurese
   as tolerated
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-11**] 07:14 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-14 11:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Exhibiting diffuse maculopapular rash, trunk, back, arms, legs.
   Abdomen remains distended, KUB unremarkable, and bladder pressure [**10-31**]
   cm H2O.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier, Chinese
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2171-5-11**] 10:00 PM
   Vancomycin - [**2171-5-13**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2171-5-14**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-14**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 97 (69 - 106) bpm
   BP: 102/70(78) {89/38(52) - 142/118(124)} mmHg
   RR: 24 (17 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  2,712 mL
                                                                    700 mL
   PO:
   TF:
                                                                     98 mL
                                                                    173 mL
   IVF:
                                                                  2,364 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                    454 mL
                                                                    145 mL
   Urine:
                                                                    454 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,258 mL
                                                                    555 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 313 (288 - 350) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 105
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, flaccid left
   Labs / Radiology
   8.4 g/dL
   378 K/uL
   115 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   8 mg/dL
   109 mEq/L
   140 mEq/L
   24.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2171-5-6**]  03:46 AM
                             [**2171-5-7**]  03:42 AM
                             [**2171-5-8**]  08:07 PM
                             [**2171-5-9**]  03:59 AM
                             [**2171-5-10**]  04:17 AM
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
   WBC
   9.0
   8.5
   11.2
   8.1
   9.6
   7.2
   8.6
   11.0
   Hct
   29.0
   27.3
   29.1
   24.1
   26.7
   25.2
   25.9
   24.8
   Plt
   [**Telephone/Fax (3) 7211**]47
   295
   301
   317
   378
   Cr
   0.9
   0.8
   0.9
   0.9
   1.0
   0.9
   0.9
   0.8
   TropT
   0.03
   TCO2
   22
   24
   Glucose
   136
   117
   77
   96
   104
   131
   117
   115
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:83.4 %, Lymph:9.2 %, Mono:3.5 %, Eos:3.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.5 g/dL, LDH:139 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Work towards SBT, but
   limited progress to date.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- check KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.
   Need to better define goals of treatment and care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-13**] 05:30 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-15 11:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2171-5-13**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2171-5-14**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2171-5-14**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-15**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 97 (86 - 124) bpm
   BP: 116/59(73) {98/45(58) - 116/75(84)} mmHg
   RR: 20 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,603 mL
                                                                    626 mL
   PO:
             TF:
                                                                    539 mL
                                                                    445 mL
   IVF:
                                                                    464 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                  1,150 mL
   Urine:
                                                                  1,390 mL
                                                                  1,050 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                    213 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 302 (302 - 343) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 128
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Firm
   Extremities: Right: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Flaccid left
   Labs / Radiology
   8.5 g/dL
   401 K/uL
   134 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   9 mg/dL
   107 mEq/L
   142 mEq/L
   25.4 %
   12.5 K/uL
        [image002.jpg]
                             [**2171-5-7**]  03:42 AM
                             [**2171-5-8**]  08:07 PM
                             [**2171-5-9**]  03:59 AM
                             [**2171-5-10**]  04:17 AM
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
   WBC
   8.5
   11.2
   8.1
   9.6
   7.2
   8.6
   11.0
   12.5
   Hct
   27.3
   29.1
   24.1
   26.7
   25.2
   25.9
   24.8
   25.4
   Plt
   [**Telephone/Fax (3) 7273**]95
   [**Telephone/Fax (2) 7274**]01
   Cr
   0.8
   0.9
   0.9
   1.0
   0.9
   0.9
   0.8
   0.9
   TropT
   0.03
   TCO2
   22
   24
   Glucose
   117
   77
   96
   104
   131
   117
   115
   134
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:80.4 %, Lymph:14.2 %, Mono:2.5 %, Eos:2.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Work towards SBT, but
   limited progress to date.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.
   Need to better define goals of treatment and care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-15**] 09:14 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending (Addendum):
   Meeting with patient
s daughter (health care proxy).  Updated medical
   condition.  Answered all questions.  Daughter understands pt. exhibited
   limited progress since current hospitalization.  At this time
   considering direction of future care.  Daughter wishes to discuss with
   other family members prior to making final decision regarding continue
   with trach/PEG and rehabilitation, or whether to move towards
   extubation and comfort.  At this time the HCP Daughter believes pt.
   would not want tracheostomy tube, but she wishes to confer with family
   members prior to final decision.
   Currently, pt. remains DNR (no CPR), but will continue mechanical
   ventilation and current level of care until health care proxy decision
   is made later this week.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2171-5-15**] 14:37 ------

2171-05-16 11:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-5-14**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-16**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-16**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 99 (94 - 114) bpm
   BP: 117/56(69) {107/49(63) - 140/71(77)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.2 kg (admission): 55 kg
             Total In:
                                                                  2,786 mL
                                                                  1,288 mL
   PO:
             TF:
                                                                  1,032 mL
                                                                    522 mL
   IVF:
                                                                  1,314 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    885 mL
   Urine:
                                                                  1,245 mL
                                                                    235 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,241 mL
                                                                    403 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 336 (296 - 346) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Firm (unchanged)
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Flaccid left arm and leg
   Labs / Radiology
   9.0 g/dL
   460 K/uL
   125 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.5 mEq/L
   11 mg/dL
   107 mEq/L
   139 mEq/L
   27.6 %
   18.1 K/uL
        [image002.jpg]
                             [**2171-5-8**]  08:07 PM
                             [**2171-5-9**]  03:59 AM
                             [**2171-5-10**]  04:17 AM
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
   WBC
   11.2
   8.1
   9.6
   7.2
   8.6
   11.0
   12.5
   18.1
   Hct
   29.1
   24.1
   26.7
   25.2
   25.9
   24.8
   25.4
   27.6
   Plt
   296
   247
   295
   [**Telephone/Fax (2) 7291**]60
   Cr
   0.9
   0.9
   1.0
   0.9
   0.9
   0.8
   0.9
   0.6
   TropT
   0.03
   TCO2
   22
   24
   Glucose
   77
   96
   104
   131
   117
   115
   134
   125
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:80.4 %, Lymph:14.2 %, Mono:2.5 %, Eos:2.4 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Work towards SBT, but
   limited progress to date.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.
   Need to better define goals of treatment and care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-16**] 07:18 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-17 11:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Rash progressing at involved sites, now evolving into blisters and
   sloughing.  No evidence for progression of rash to other area of body.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-17**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-17**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 103 (95 - 128) bpm
   BP: 119/44(63) {110/44(63) - 132/92(96)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.2 kg (admission): 55 kg
             Total In:
                                                                  2,565 mL
                                                                    866 mL
   PO:
             TF:
                                                                  1,113 mL
                                                                    527 mL
   IVF:
                                                                    842 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                    230 mL
   Urine:
                                                                    470 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,295 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (287 - 358) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese, Firm
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash erythemotous involving back lower abdomen, and
   portions of arms and legs
 blistering: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   447 K/uL
   123 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.2 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   27.3 %
   12.2 K/uL
        [image002.jpg]
                             [**2171-5-9**]  03:59 AM
                             [**2171-5-10**]  04:17 AM
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
   WBC
   11.2
   8.1
   9.6
   7.2
   8.6
   11.0
   12.5
   18.1
   12.2
   Hct
   29.1
   24.1
   26.7
   25.2
   25.9
   24.8
   25.4
   27.6
   27.3
   Plt
   296
   247
   295
   [**Telephone/Fax (2) 7304**]
   Cr
   0.9
   0.9
   1.0
   0.9
   0.9
   0.8
   0.9
   0.6
   0.6
   TropT
   0.03
   TCO2
   24
   Glucose
   77
   96
   104
   131
   117
   115
   134
   125
   123
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:84.9 %, Lymph:10.2 %, Mono:2.9 %, Eos:1.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Work towards SBT, but
   limited progress to date.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Evolving to blisters.  Plan Silvidine ointment to involved areas, and
   specialized bed (to limit skin contact).
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-17**] 04:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending (Addendum):
   Meeting with daughter (health care proxy).  Updated medical
   condition,and answered all questions.  With lack of clinical
   improvement and progress in respiratory status, daughter states that
   pt. would want to proceed with tracheotomy tube at this time.  Will
   arrange for evaluation for bedside trach.  Daughter indicates that she
   wishes to continue communications throughout weekend in the event that
   discussions with other family members may change course of care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2171-5-17**] 17:41 ------

2171-05-18 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-17**] 04:24 PM
   Furosemide (Lasix) - [**2171-5-18**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-18**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 118 (105 - 128) bpm
   BP: 119/65(79) {110/48(63) - 131/75(87)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.2 kg (admission): 55 kg
             Total In:
                                                                  1,726 mL
                                                                    627 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    504 mL
   IVF:
                                                                    635 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                  1,045 mL
   Urine:
                                                                  1,405 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    321 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (267 - 370) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese, Firm (unchanged)
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Diffuse, erythemtous now with blistering, No(t)
   Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Left hemiparesis (unchanged)
   Labs / Radiology
   8.5 g/dL
   481 K/uL
   120 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.4 mEq/L
   12 mg/dL
   103 mEq/L
   140 mEq/L
   27.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2171-5-10**]  04:17 AM
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
   WBC
   8.1
   9.6
   7.2
   8.6
   11.0
   12.5
   18.1
   12.2
   11.7
   Hct
   24.1
   26.7
   25.2
   25.9
   24.8
   25.4
   27.6
   27.3
   27.1
   Plt
   247
   295
   301
   [**Telephone/Fax (3) **]
   460
   447
   481
   Cr
   0.9
   1.0
   0.9
   0.9
   0.8
   0.9
   0.6
   0.6
   0.6
   TropT
   0.03
   TCO2
   24
   Glucose
   96
   104
   131
   117
   115
   134
   125
   123
   120
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:84.9 %, Lymph:10.2 %, Mono:2.9 %, Eos:1.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Limited progress to
   date.  Plan to proceed with tracheotomy tube placement.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Evolving to blisters.  Plan Silvidine ointment to involved areas, and
   specialized bed (to limit skin contact).
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.  Monitor off antibiotics
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-18**] 02:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-19 12:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Rash remains prominant, sparing mucosa, lower legs.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, Language
   barrier, Chinese
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2171-5-18**] 06:02 PM
   Fentanyl - [**2171-5-18**] 07:57 PM
   Furosemide (Lasix) - [**2171-5-19**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-19**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 112 (108 - 133) bpm
   BP: 106/49(63) {106/41(61) - 120/88(94)} mmHg
   RR: 18 (17 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.2 kg (admission): 55 kg
             Total In:
                                                                  1,639 mL
                                                                    701 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    540 mL
   IVF:
                                                                    558 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                  1,058 mL
   Urine:
                                                                  1,585 mL
                                                                  1,058 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     54 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (319 - 344) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese, Firm; PEG
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Diffuse erythematous; areas of desquamation evolving
   on thighs, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, left hemiparesis
   Labs / Radiology
   8.4 g/dL
   433 K/uL
   138 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.2 mEq/L
   12 mg/dL
   102 mEq/L
   140 mEq/L
   25.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2171-5-10**]  04:23 PM
                             [**2171-5-11**]  03:52 AM
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
   WBC
   9.6
   7.2
   8.6
   11.0
   12.5
   18.1
   12.2
   11.7
   11.5
   Hct
   26.7
   25.2
   25.9
   24.8
   25.4
   27.6
   27.3
   27.1
   25.8
   Plt
   295
   301
   317
   378
   [**Telephone/Fax (2) 7363**]81
   433
   Cr
   1.0
   0.9
   0.9
   0.8
   0.9
   0.6
   0.6
   0.6
   0.6
   TCO2
   24
   Glucose
   104
   131
   117
   115
   134
   125
   123
   120
   138
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:84.9 %, Lymph:10.2 %, Mono:2.9 %, Eos:1.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Limited progress to
   date.  As per family, plan to proceed with tracheotomy tube placement.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Diffuse erythema, evolving to blisters. Mucosa not involved.   Plan
   Silvidine ointment to involved areas, and specialized bed (to limit
   skin contact).
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.  Monitor off antibiotics
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-20 12:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   No significant progress with weaning.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-20**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 101 (95 - 130) bpm
   BP: 108/48(63) {91/34(53) - 117/76(99)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64 kg (admission): 55 kg
             Total In:
                                                                  1,687 mL
                                                                    714 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    458 mL
   IVF:
                                                                    307 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    526 mL
   Urine:
                                                                  1,605 mL
                                                                    526 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -268 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 370 (368 - 373) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///37/
   Ve: 5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese, Firm; PEG
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Flaccid left arm > left leg
   Labs / Radiology
   7.9 g/dL
   448 K/uL
   129 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.4 mEq/L
   16 mg/dL
   99 mEq/L
   139 mEq/L
   25.0 %
   11.2 K/uL
        [image002.jpg]
                             [**2171-5-11**]  03:52 AM
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
                             [**2171-5-20**]  04:12 AM
   WBC
   7.2
   8.6
   11.0
   12.5
   18.1
   12.2
   11.7
   11.5
   11.2
   Hct
   25.2
   25.9
   24.8
   25.4
   27.6
   27.3
   27.1
   25.8
   25.0
   Plt
   [**Telephone/Fax (3) 7304**]
   481
   433
   448
   Cr
   0.9
   0.9
   0.8
   0.9
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   24
   Glucose
   131
   117
   115
   134
   125
   123
   120
   138
   129
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:84.9 %, Lymph:10.2 %, Mono:2.9 %, Eos:1.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Limited progress to
   date.  As per family, plan to proceed with tracheotomy tube placement.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Diffuse erythema, evolving to blisters. Mucosa not involved.   Plan
   Silvidine ointment to involved areas, and specialized bed (to limit
   skin contact).  Improving.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.  Monitor off antibiotics
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-21 11:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Episode of apnea yesterday afternoon, resolved with narcan.
   More interactive today, without apnea, on lower dose of fentanyl.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-21**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 96 (96 - 149) bpm
   BP: 107/52(66) {107/51(64) - 142/87(94)} mmHg
   RR: 13 (10 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64 kg (admission): 55 kg
             Total In:
                                                                  1,610 mL
                                                                    391 mL
   PO:
             TF:
                                                                  1,079 mL
   IVF:
                                                                    301 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                    946 mL
                                                                    290 mL
   Urine:
                                                                    946 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    664 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 406 (406 - 406) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   426 K/uL
   101 mg/dL
   0.7 mg/dL
   35 mEq/L
   5.0 mEq/L
   16 mg/dL
   99 mEq/L
   141 mEq/L
   23.6 %
   11.8 K/uL
        [image002.jpg]
                             [**2171-5-11**]  04:58 PM
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
                             [**2171-5-20**]  04:12 AM
                             [**2171-5-21**]  03:57 AM
   WBC
   8.6
   11.0
   12.5
   18.1
   12.2
   11.7
   11.5
   11.2
   11.8
   Hct
   25.9
   24.8
   25.4
   27.6
   27.3
   27.1
   25.8
   25.0
   23.6
   Plt
   [**Telephone/Fax (3) **]60
   447
   481
   433
   448
   426
   Cr
   0.9
   0.8
   0.9
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   TCO2
   24
   Glucose
   117
   115
   134
   125
   123
   120
   138
   129
   101
   Other labs: PT / PTT / INR:11.7/31.0/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:84.9 %, Lymph:10.2 %, Mono:2.9 %, Eos:1.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Limited progress to
   date.  As per family, plan to proceed with tracheotomy tube placement.
   Check pre-op CXR, PT, PTT,plts, T&S.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Diffuse erythema, evolving to blisters. Mucosa not involved.   Plan
   Silvidine ointment to involved areas, and specialized bed (to limit
   skin contact).  Much improved.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.  Monitor off antibiotics
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.  Hold tonight for trach in AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-22 12:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, Dementia
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2171-5-22**] 04:30 AM
   Heparin Sodium (Prophylaxis) - [**2171-5-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-22**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 93 (84 - 122) bpm
   BP: 151/99(108) {99/52(64) - 156/99(108)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 55 kg
             Total In:
                                                                  1,582 mL
                                                                    254 mL
   PO:
             TF:
                                                                    516 mL
   IVF:
                                                                    626 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    723 mL
                                                                    310 mL
   Urine:
                                                                    723 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    859 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese, FIRM; PEG
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, Flaccid left; rigid right UE
   Labs / Radiology
   8.2 g/dL
   530 K/uL
   99 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.6 mEq/L
   14 mg/dL
   99 mEq/L
   140 mEq/L
   25.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2171-5-12**]  04:27 AM
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
                             [**2171-5-20**]  04:12 AM
                             [**2171-5-21**]  03:57 AM
                             [**2171-5-22**]  04:20 AM
   WBC
   8.6
   11.0
   12.5
   18.1
   12.2
   11.7
   11.5
   11.2
   11.8
   11.5
   Hct
   25.9
   24.8
   25.4
   27.6
   27.3
   27.1
   25.8
   25.0
   23.6
   25.7
   Plt
   [**Telephone/Fax (3) **]60
   447
   481
   433
   448
   426
   530
   Cr
   0.9
   0.8
   0.9
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.6
   Glucose
   117
   115
   134
   125
   123
   120
   138
   129
   101
   99
   Other labs: PT / PTT / INR:12.0/28.3/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:84.9 %, Lymph:10.2 %, Mono:2.9 %, Eos:1.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Limited progress to
   date.  As per family, plan to proceed with tracheotomy tube placement.
   Check pre-op CXR, PT, PTT,plts, T&S.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Diffuse erythema, evolving to blisters. Mucosa not involved.   Plan
   Silvidine ointment to involved areas, and specialized bed (to limit
   skin contact).  Much improved.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.  Monitor off antibiotics
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.  Hold tonight for trach in AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-5-8**] 08:26 PM
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-23 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated.
   Bedside tracheostomy tube placed per Thoracic surgery yesterday.
   Experienced some hypertension and tachycardia with turning in bed,
   resolved with increased sedation.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier, Dementia
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2171-5-22**] 03:04 PM
   Midazolam (Versed) - [**2171-5-22**] 03:06 PM
   Morphine Sulfate - [**2171-5-23**] 12:12 AM
   Lansoprazole (Prevacid) - [**2171-5-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2171-5-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Trachwostomy
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-5-23**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 88 (87 - 141) bpm
   BP: 121/55(69) {105/50(65) - 190/106(126)} mmHg
   RR: 11 (0 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 55 kg
             Total In:
                                                                    378 mL
                                                                    414 mL
   PO:
             TF:
             158 mL
   IVF:
                                                                    268 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    527 mL
                                                                    280 mL
   Urine:
                                                                    527 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -149 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 99%
   ABG: ///32/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese, Firm;  PEG
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal, Left hemiparesis; rigid
   right arm
   Labs / Radiology
   8.1 g/dL
   580 K/uL
   95 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.9 mEq/L
   13 mg/dL
   99 mEq/L
   140 mEq/L
   24.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2171-5-14**]  04:47 AM
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
                             [**2171-5-20**]  04:12 AM
                             [**2171-5-21**]  03:57 AM
                             [**2171-5-22**]  04:20 AM
                             [**2171-5-23**]  03:10 AM
   WBC
   11.0
   12.5
   18.1
   12.2
   11.7
   11.5
   11.2
   11.8
   11.5
   11.5
   Hct
   24.8
   25.4
   27.6
   27.3
   27.1
   25.8
   25.0
   23.6
   25.7
   24.9
   Plt
   378
   401
   460
   447
   481
   433
   448
   426
   530
   580
   Cr
   0.8
   0.9
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.6
   0.7
   Glucose
   115
   134
   125
   123
   120
   138
   129
   101
   99
   95
   Other labs: PT / PTT / INR:12.0/28.3/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:84.9 %, Lymph:10.2 %, Mono:2.9 %, Eos:1.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yof Chinese speaking with dementia, prior CVA (residual left sided
   paralysis) now with aspiration pneumonia, respiratory failure.
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Limited progress to
   date.  As per family, plan to proceed with tracheotomy tube placement.
   Check pre-op CXR, PT, PTT,plts, T&S.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Diffuse erythema, evolving to blisters. Mucosa not involved.   Plan
   Silvidine ointment to involved areas, and specialized bed (to limit
   skin contact).  Much improved.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.  Monitor off antibiotics
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   NUTRITIONAL SUPPORT
 TF resumed.  Hold tonight for trach in AM.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-23**] 08:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2171-05-24 08:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2171-5-23**] 11:45 PM
   Fentanyl - [**2171-5-24**] 12:00 AM
   Metoprolol - [**2171-5-24**] 02:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-5-24**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 106 (88 - 148) bpm
   BP: 116/69(81) {102/43(62) - 172/129(133)} mmHg
   RR: 22 (8 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.5 kg (admission): 55 kg
             Total In:
                                                                  2,216 mL
                                                                    105 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                     90 mL
   IVF:
                                                                    536 mL
                                                                     15 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    420 mL
   Urine:
                                                                    685 mL
                                                                    320 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,531 mL
                                                                   -315 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   573 K/uL
   95 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.9 mEq/L
   13 mg/dL
   99 mEq/L
   140 mEq/L
   25.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2171-5-15**]  04:14 AM
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
                             [**2171-5-20**]  04:12 AM
                             [**2171-5-21**]  03:57 AM
                             [**2171-5-22**]  04:20 AM
                             [**2171-5-23**]  03:10 AM
                             [**2171-5-24**]  06:30 AM
   WBC
   12.5
   18.1
   12.2
   11.7
   11.5
   11.2
   11.8
   11.5
   11.5
   12.6
   Hct
   25.4
   27.6
   27.3
   27.1
   25.8
   25.0
   23.6
   25.7
   24.9
   25.3
   Plt
   [**Telephone/Fax (3) 7363**]81
   433
   448
   426
   530
   580
   573
   Cr
   0.9
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.6
   0.7
   Glucose
   134
   125
   123
   120
   138
   129
   101
   99
   95
   Other labs: PT / PTT / INR:12.0/28.3/1.0, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:81.9 %, Lymph:10.5 %, Mono:6.6 %, Eos:0.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- attributed to sepsis and aspiration
   (recurrent).  Continue mechanical ventilation.  Limited progress to
   date.  Tracheotomy tube placed successfully.
   RASH
 Severe.  Attributed to drug reaction (likely penicillin).
   Diffuse erythema, evolving to blisters. Mucosa not involved.   Plan
   Silvidine ointment to involved areas, and specialized bed (to limit
   skin contact).  Much improved.
   SEPSIS --  attributed to aspiration pneuomonia --> empirical Pip/Tazo,
   Vanco --> now completed course.  Monitor off antibiotics
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Continue to
   monitor.  Maintain MAP >60 mmHg.
   CVA -- remote.  Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam.
   DEMENTIA -- baseline poorly communicative.
   RHEUMATOID ARTHRITIS -- no acute therapy.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2171-05-25 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2171-5-24**] 08:00 AM
   Meropenem - [**2171-5-25**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-25**] 12:00 AM
   Fentanyl - [**2171-5-25**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-5-25**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 117 (85 - 135) bpm
   BP: 108/77(84) {87/44(55) - 132/79(86)} mmHg
   RR: 30 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.5 kg (admission): 55 kg
             Total In:
                                                                  2,076 mL
                                                                    686 mL
   PO:
             TF:
                                                                    250 mL
                                                                    288 mL
   IVF:
                                                                  1,586 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    104 mL
   Urine:
                                                                    700 mL
                                                                     94 mL
   NG:
                                                                    100 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                    582 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 162
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25.8 cmH2O/mL
   SpO2: 99%
   ABG: ///30/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   617 K/uL
   141 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.1 mEq/L
   12 mg/dL
   99 mEq/L
   137 mEq/L
   25.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
                             [**2171-5-20**]  04:12 AM
                             [**2171-5-21**]  03:57 AM
                             [**2171-5-22**]  04:20 AM
                             [**2171-5-23**]  03:10 AM
                             [**2171-5-24**]  06:30 AM
                             [**2171-5-25**]  04:07 AM
   WBC
   18.1
   12.2
   11.7
   11.5
   11.2
   11.8
   11.5
   11.5
   12.6
   12.3
   Hct
   27.6
   27.3
   27.1
   25.8
   25.0
   23.6
   25.7
   24.9
   25.3
   25.6
   Plt
   460
   447
   481
   433
   448
   426
   [**Telephone/Fax (3) 7511**]
   617
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.6
   0.7
   0.9
   0.8
   Glucose
   125
   123
   120
   138
   129
   101
   99
   95
   130
   141
   Other labs: PT / PTT / INR:12.6/24.6/1.1, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:81.9 %, Lymph:10.5 %, Mono:6.6 %, Eos:0.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.4 g/dL, LDH:149 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- attributed to aspiration (recurrent) and
   effusions.  Continue mechanical ventilation.  Limited progress to
   date.  Tracheotomy tube placed successfully. Cont on vent
 work on
   placement. Cont abx for 72 hours.
   RASH
 improved
   Vomiting
 keep NPO
   HYPOTENSION -- attributed to sepsis, hypovolemia.  Given IVF this AM
   CVA, demetia -- Baseline left hemiparesis.
   ABD DISTENTION -- KUB unrevealing, bladder pressure acceptable.
   Monitor exam. Keep NPO
   RHEUMATOID ARTHRITIS -- no acute therapy.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2171-5-25**] 02:31 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2171-05-26 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2171-5-24**] 08:00 AM
   Meropenem - [**2171-5-26**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-5-26**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 83 (78 - 125) bpm
   BP: 96/64(71) {91/50(60) - 140/100(106)} mmHg
   RR: 19 (15 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 55 kg
             Total In:
                                                                  1,224 mL
                                                                    197 mL
   PO:
             TF:
                                                                    317 mL
   IVF:
                                                                    587 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    504 mL
                                                                    353 mL
   Urine:
                                                                    344 mL
                                                                     53 mL
   NG:
                                                                    160 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 335 (335 - 422) mL
   PS : 25 cmH2O
   RR (Set): 10
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 203
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   617 K/uL
   141 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.1 mEq/L
   12 mg/dL
   99 mEq/L
   137 mEq/L
   25.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2171-5-16**]  04:32 AM
                             [**2171-5-17**]  03:16 AM
                             [**2171-5-18**]  03:51 AM
                             [**2171-5-19**]  04:00 AM
                             [**2171-5-20**]  04:12 AM
                             [**2171-5-21**]  03:57 AM
                             [**2171-5-22**]  04:20 AM
                             [**2171-5-23**]  03:10 AM
                             [**2171-5-24**]  06:30 AM
                             [**2171-5-25**]  04:07 AM
   WBC
   18.1
   12.2
   11.7
   11.5
   11.2
   11.8
   11.5
   11.5
   12.6
   12.3
   Hct
   27.6
   27.3
   27.1
   25.8
   25.0
   23.6
   25.7
   24.9
   25.3
   25.6
   Plt
   460
   447
   481
   433
   448
   426
   [**Telephone/Fax (3) 7511**]
   617
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.6
   0.7
   0.9
   0.8
   Glucose
   125
   123
   120
   138
   129
   101
   99
   95
   130
   141
   Other labs: PT / PTT / INR:12.6/24.6/1.1, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-10**], Alk Phos / T Bili:70/0.5,
   Differential-Neuts:81.9 %, Lymph:10.5 %, Mono:6.6 %, Eos:0.7 %, Lactic
   Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:149 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- attributed to aspiration (recurrent), effusions,
   weakness.  Continue mechanical ventilation.  Limited progress to date.
   Tracheotomy tube placed successfully. Cont on vent
 work on placement.
   Cont abx for 72 hours.
   Vomiting due to ileus
 keep NPO, holding opiates, d/c scopolamine
   HYPOTENSION -- attributed to intravasc hypovolemia, use IVF prn
   CVA, demetia -- Baseline left hemiparesis, cont ASA
   RHEUMATOID ARTHRITIS -- no acute therapy.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2171-05-30 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: resp distress, s/p intubation, trach
   24 Hour Events:
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-5-30**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-5-30**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 102 (84 - 115) bpm
   BP: 116/63(77) {97/54(67) - 143/93(90)} mmHg
   RR: 21 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65.3 kg (admission): 55 kg
             Total In:
                                                                    856 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                    586 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  3,975 mL
                                                                    660 mL
   Urine:
                                                                  3,975 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,119 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (289 - 360) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   971 K/uL
   8.4 g/dL
   80 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   10 mg/dL
   98 mEq/L
   140 mEq/L
   26.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2171-5-21**]  03:57 AM
                             [**2171-5-22**]  04:20 AM
                             [**2171-5-23**]  03:10 AM
                             [**2171-5-24**]  06:30 AM
                             [**2171-5-25**]  04:07 AM
                             [**2171-5-27**]  05:31 AM
                             [**2171-5-28**]  05:52 PM
                             [**2171-5-28**]  07:24 PM
                             [**2171-5-29**]  03:54 AM
                             [**2171-5-30**]  04:15 AM
   WBC
   11.8
   11.5
   11.5
   12.6
   12.3
   10.0
   11.6
   11.4
   Hct
   23.6
   25.7
   24.9
   25.3
   25.6
   25.9
   26.4
   26.9
   Plt
   426
   530
   580
   [**Telephone/Fax (2) 7601**]71
   Cr
   0.7
   0.6
   0.7
   0.9
   0.8
   0.8
   1.0
   TCO2
   33
   Glucose
   101
   99
   95
   130
   141
   87
   98
   80
   Other labs: PT / PTT / INR:12.6/24.6/1.1, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**7-13**], Alk Phos / T Bili:98/0.2, Amylase
   / Lipase:46/, Differential-Neuts:81.9 %, Lymph:10.5 %, Mono:6.6 %,
   Eos:0.7 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:172 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 OLIGURIA/ANURIA
   20L positive fpr the LOS, low urine output 10-15cc/hr unresposive with
   fluid bolus
 INEFFECTIVE COPING
   family conflict with decision of care, social work consult done
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received several fentanyl IV bolus ( 50 mcg) q2hrs for pain, patient
   appears comfortable with only versed at this time
 HYPERTENSION, BENIGN
   BP 170-180's when off sedation last [**5-23**]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   remains on AC, failure to wean - trached [**5-22**]; started on vanco and
   meropenem ? aspiration pneumonia; preparing patient for rehab
 IMPAIRED SKIN INTEGRITY
   skin is improving - sloughing off
 ALTERATION IN NUTRITION
   tube feeds off [**5-23**] 12 am - vomited - Jtube to continuous low suction -
   KUB done [**5-24**] - diarrhea stopped, last BM [**5-24**] - large amount
 HYPOXEMIA
   last ABG [**5-8**] was 7.35/39/254 - follwing sats > 95% on AC 40% 450x12
   peep 5
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
   contracted all extremities
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   at her best patient speaks only 2 words in chinese
 HYPOTENSION (NOT SHOCK)
   [**5-24**] - BP mid 80's with MAP 55-57
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   spike temp 100.7 [**5-24**] blood and urine culture sent, started on vanco and
   zosyn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2171-06-01 11:37:00 Physician Attending Progress Note
Chief Complaint: pneumonia now trached. Discharge planning delayed due
   to partial SBO
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tube feeds restarted
   Tolerated trach mask
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-6-1**] 07:32 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-6-1**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.8
   HR: 67 (67 - 120) bpm
   BP: 103/48(62) {100/47(61) - 149/73(87)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 55 kg
             Total In:
                                                                    767 mL
                                                                    377 mL
   PO:
             TF:
                                                                     75 mL
                                                                    149 mL
   IVF:
                                                                    372 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,510 mL
   Urine:
                                                                  1,250 mL
                                                                  1,110 mL
   NG:
   Stool:
                                                                    700 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,183 mL
                                                                 -1,133 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 346 (346 - 346) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, UE edema
   Skin:  Warm, Desquamating rash on trunk, thighs, improving
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, non-responsive
   Labs / Radiology
   8.4 g/dL
   993 K/uL
   112 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   9 mg/dL
   101 mEq/L
   132 mEq/L
   26.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2171-5-27**]  05:31 AM
                             [**2171-5-28**]  05:52 PM
                             [**2171-5-28**]  07:24 PM
                             [**2171-5-29**]  03:54 AM
                             [**2171-5-30**]  04:15 AM
                             [**2171-5-30**]  02:15 PM
                             [**2171-5-30**]  04:50 PM
                             [**2171-5-31**]  04:24 AM
                             [**2171-5-31**]  04:30 PM
                             [**2171-6-1**]  04:03 AM
   WBC
   10.0
   11.6
   11.4
   8.0
   10.2
   Hct
   25.9
   26.4
   26.9
   25.6
   26.8
   Plt
   [**Telephone/Fax (3) 7638**]19
   993
   Cr
   0.8
   1.0
   1.2
   1.3
   1.1
   1.1
   1.1
   TCO2
   33
   36
   Glucose
   87
   98
   80
   100
   115
   116
   112
   Other labs: PT / PTT / INR:12.6/24.6/1.1, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**3-13**], Alk Phos / T Bili:100/0.2,
   Amylase / Lipase:46/, Differential-Neuts:81.9 %, Lymph:10.5 %, Mono:6.6
   %, Eos:0.7 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:172 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR today - large right effusion, unchanged. Trach, picc in
   place
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident's note, including the assessment and plan. I would emphasize
   and add the following points:
   [**Age over 90 **]F large CVA, resp failure s/p T+G ongoing ileus with emesis and GJ
   tube leak. Off sedation, CT with partial SBO, small L ovarian mass -
   cytology +adenoca. Met with family yesterday to discuss new dx of
   intraabdominal malignancy. Thrombocytosis - new.
   Agree with plan to manage partial SBO with dex for
   malignancy-associated SBO/ileus
 seems to be improving with bowel
   sounds present today. Will attempt to increase TFs today. For resp
   failure, monitor off sedation and c/w TM trials while continuing lasix
   drip. Can follow ABG/VBG. Will d/c diamox for metabolic alkalosis
   received 3 days.
   Will continue to discuss goals of care with family, pt DNR, no
   escalation of care. Remainder of plan as outlined above.
   Total time: 35 min
   ICU Care
   Nutrition:
   Fibersource HN ([**1-23**]) - [**2171-5-31**] 01:00 PM 15 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2171-06-02 08:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pancultured
   Tube feeds advanced
   Trach mask overnight
   Allergies:
   Vancomycin
   Rash;
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-6-1**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-6-2**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.5
C (95.9
   HR: 88 (67 - 92) bpm
   BP: 123/54(70) {102/34(56) - 128/70(77)} mmHg
   RR: 19 (13 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 55 kg
             Total In:
                                                                    683 mL
                                                                    312 mL
   PO:
             TF:
                                                                    400 mL
                                                                    153 mL
   IVF:
                                                                    193 mL
                                                                      8 mL
   Blood products:
   Total out:
                                                                  2,083 mL
                                                                    420 mL
   Urine:
                                                                  1,533 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,400 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 346 (346 - 346) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : mild)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent, anasarca
   Skin:  Warm, improved desquamative rash
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, alert but nonresponsive
   Labs / Radiology
   8.4 g/dL
   967 K/uL
   118 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.6 mEq/L
   10 mg/dL
   101 mEq/L
   137 mEq/L
   26.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2171-5-28**]  05:52 PM
                             [**2171-5-28**]  07:24 PM
                             [**2171-5-29**]  03:54 AM
                             [**2171-5-30**]  04:15 AM
                             [**2171-5-30**]  02:15 PM
                             [**2171-5-30**]  04:50 PM
                             [**2171-5-31**]  04:24 AM
                             [**2171-5-31**]  04:30 PM
                             [**2171-6-1**]  04:03 AM
                             [**2171-6-2**]  02:08 AM
   WBC
   11.6
   11.4
   8.0
   10.2
   8.9
   Hct
   26.4
   26.9
   25.6
   26.8
   26.8
   Plt
   933
   971
   919
   993
   967
   Cr
   1.0
   1.2
   1.3
   1.1
   1.1
   1.1
   0.7
   TCO2
   33
   36
   Glucose
   98
   80
   100
   115
   116
   112
   118
   Other labs: PT / PTT / INR:12.6/24.6/1.1, CK / CKMB /
   Troponin-T:28/3/0.03, ALT / AST:[**3-13**], Alk Phos / T Bili:100/0.2,
   Amylase / Lipase:46/, Differential-Neuts:81.9 %, Lymph:10.5 %, Mono:6.6
   %, Eos:0.7 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL, LDH:172 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Microbiology: Sputum - 4+ GNR 2+ GPC 1+ yeast
   U/a normal
   BC pending
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 OLIGURIA/ANURIA
   20L positive fpr the LOS, low urine output 10-15cc/hr unresposive with
   fluid bolus
 HYPOXEMIA
   last ABG [**5-8**] was 7.35/39/254 - follwing sats > 95% on AC 40% 450x12
   peep 5
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   spike temp 100.7 [**5-24**] blood and urine culture sent, started on vanco and
   zosyn
   [**Age over 90 **] yo w/ dementia, h/o CVA and residual L paralysis admitted with
   aspiration pna and sepsis, trach
d w/ chronic hypercarbic/hypoxic mixed
   resp failure.  CT [**5-27**] shows partial SBO and ovarian mass, paracentesis
   w/ adenoca on cytology. Continue with dexamethasone but will touch base
   with palliative care about expected duration now that SBO is resolving.
     On tube feeds for aspiration risk.  Improved creatinine, anasarca
   with good diuresis on lasix drip. Continue with TC oxygen for hypoxemic
   resp failure. Thrombocytosis concerning for infection
 pancultured,
   will check diff. If left shift, will start antibiotics. [**Month (only) 8**] need to
   consider LP.
   Family does not want further escalation of care.  Being set up for LTAC
   discharge pending infectious workup.
   ICU Care
   Nutrition:
   Fibersource HN ([**1-23**]) - [**2171-6-2**] 06:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-5-8**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Comments: family updated daily
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes, remains critically ill
   Patient is critically ill